US07265121B2
1-(4-Methoxybenzoyl-D-valinyl)-4-(1-methylpiperidin-4-yl)-piperidine
1-D-Valinyl-4-(1-methylpiperidin-4-yl)piperidine dihydrochloride (15.6 g, 44.1 mmol) is slurried in anhydrous CH2Cl2 (400 mL); and to the slurry is added triethylamine (19.7 mL, 141.0 mmol), followed by p-anisoyl chloride (7.9 mL, 52.9 mmol). The reaction is allowed to stir for about 30 min and then quenched with the addition of saturated NaHCO3 (300 mL), followed by the separation of the phases. The organic layer is washed with saturated NaHCO3 (2×300 mL), dried over Na2SO4, filtered and concentrated in vacuo. The residue is purified by chromatography over silica gel, eluting with 2.5% (2 M NH3 in MeOH)/CHCl3 to give 16.3 g (89%) of the title compound as a white foam.

reactant | 1-D-Valinyl-4-(1-methylpiperidin-4-yl)piperidine dihydrochloride | 44.1 mmol, 15.6 g | Cl.Cl.N[C@H](C(C)C)C(=O)N1CCC(CC1)C1CCN(CC1)C
reactant | triethylamine | 141.0 mmol, 19.7 mL | C(C)N(CC)CC | C6H15N
reactant | p-anisoyl chloride | 52.9 mmol, 7.9 mL | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-Methoxybenzoyl-D-valinyl)-4-(1-methylpiperidin-4-yl)-piperidine | 16.3 g, 89% | COC1=CC=C(C(=O)N[C@H](C(C)C)C(=O)N2CCC(CC2)C2CCN(CC2)C)C=C1 | C24H37N3O3
